US05135945
To 11.0 g (0.042 mol) of triphenylphosphine in 200 ml of dichloromethane is added dropwise a solution of 6.71 g (0.042 mol) of bromine in 50 ml of dichloromethane. The solution is stirred for 30 min at room temperature, then 10.0 g (0.04 mol) of 3,4-dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-ethanol (CAS 79907-48-5) is added. The resulting solution is refluxed for 4 hours, allowed to cool overnight, washed with a solution of 15 g of sodium carbonate in 200 ml of water, dried over anhydrous sodium sulfate, filtered and evaporated. The resulting oil is crystallized from methanol to give 9.22 g of 3,4-dihydro-2-(2-bromoethyl)-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol.

reactant | triphenylphosphine | 0.042 mol, 11.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 0.042 mol, 6.71 g | BrBr | Br2
reactant | 3,4-dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-ethanol | 0.04 mol, 10.0 g | OC=1C(=C(C2=C(CCC(O2)(CCO)C)C1C)C)C | C15H22O3
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3,4-dihydro-2-(2-bromoethyl)-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | 9.22 g | BrCCC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H21BrO2
